US05534515
3d. 1-Benzyl-3-bromo-7-chloro-2-methylpyrrolo[2,3-d]pyridazine
8.0 g (31 mmol) of 1-benzyl-7-chloro-2-methylpyrrolo[2,3-d]pyridazine and 1.59 ml (31 mmol) of bromine are reacted in a total of 150 ml of dichloromethane as described for Example 3a. Yield: 83%, m.p.: 138°-140° C.

reactant | 1-benzyl-7-chloro-2-methylpyrrolo[2,3-d]pyridazine | 31 mmol, 8.0 g | C(C1=CC=CC=C1)N1C(=CC=2C1=C(N=NC2)Cl)C | C14H12ClN3
reactant | bromine | 31 mmol, 1.59 ml | BrBr | Br2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-Benzyl-3-bromo-7-chloro-2-methylpyrrolo[2,3-d]pyridazine | Yield: 83% | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)Cl)Br)C | C14H11BrClN3
